US08754114B2
Step 7: ethyl 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoate
Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium (12 mg, 0.017 mmol) was added to a mixture of ethyl 2-[4-(3-iodoimidazo[1,2-b]pyridazin-7-yl)phenyl]propanoate (0.24 g, 0.58 mmol), N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (240 mg, 0.70 mmol), sodium carbonate (130 mg, 1.2 mmol) in 1,4-dioxane (5 mL) and water (0.5 mL) and then the reaction was vacuumed and refilled with nitrogen for 3 times. The reaction was stirred at 95° C. overnight. The mixture was diluted with ethyl acetate, washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in methylene chloride (0-10%) to afford the desired product. LCMS (M+H)+: m/z=512.1

reactant | ethyl 2-[4-(3-iodoimidazo[1,2-b]pyridazin-7-yl)phenyl]propanoate | 0.58 mmol, 0.24 g | IC1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)OCC)C | C17H16IN3O2
reactant | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.70 mmol, 240 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)NCC(F)(F)F)C | C15H20BF3N2O3
reactant | sodium carbonate | 1.2 mmol, 130 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium | 0.017 mmol, 12 mg | Cl[Pd](P(C(C)(C)C)(C(C)(C)C)C1=CC=C(C=C1)N(C)C)(P(C1=CC=C(C=C1)N(C)C)(C(C)(C)C)C(C)(C)C)Cl
product | ethyl 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoate | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)OCC)C)(F)F | C26H24F3N5O3
